US08026261B2
C. Preparation of Methanesulfonic acid 1-(5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester
To a tap-water cooled suspension of 5-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (1.81 g, 5.8 mmol) in dichloromethane (95 mL) was added triethylamine (0.80 mL, 5.8 mmol) dropwise, followed by methanesulfonyl chloride (0.45 mL, 5.8 mmol). The suspension cleared and a slightly cloudy solution was obtained. The progress of the reaction was monitored by HPLC Method 1 (Example 24), which indicated about 75% conversion at this time. Another portion of triethylamine (0.30 mL, 2.1 mmol) and methanesulfonyl chloride (0.160 mL, 2.1 mmol) was added to the reaction mixture, and a bright yellow clear solution resulted. The reaction was completed within 10 min after the addition. The resulting solution was washed with a brine solution (2×50 mL). The organic layer was dried over Na2SO4, and then filtered. To the filtrate was added morpholine polymer-bound beads (1% cross-linked w/DVB, 200-400 mesh, 2.5-4.0 mmol N/g, 4.3 g), and the mixture was vortexed for 1 h. The solid morpholine beads were removed by filtration. The filtrate was evaporated to dryness, and the residual oil was taken up in dichloromethane and ethyl ether, and a solid product was obtained upon stirring. A first crop of the title compound was collected by filtration (1.80 g, 80% yield, HPLC Method 1 (Example 24); RT=15.0 min, HPLC purity (peak percent area): 99.3% at λ=280 nm). 1H NMR (DMSO-d6) δ ppm: 7.77 (s, 1H), 7.40 (m, 5H), 6.61 (q, J=6 Hz, 1H), 6.43 (s, 1H), 5.01 (s, 2H), 3.77 (s, 3H), 3.50 (s, 3H).

reactant | water | O | H2O
reactant | 5-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 5.8 mmol, 1.81 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(C(F)(F)F)O)=O | C15H14F3NO3
reactant | triethylamine | 5.8 mmol, 0.80 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.8 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.1 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.1 mmol, 0.160 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 95 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 1-(5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester | 80% yield | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(C(F)(F)F)OS(=O)(=O)C)=O | C16H16F3NO5S
